US05158951
Preparation of N-propyl-9-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide
A mixture containing 9.2 g (0.045 mol) of 9-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid and 7.05 ml (0.05 mol) of triethylamine in 280 ml of chloroform is cooled below -10° C. by ice-salt. A solution of 3.7 ml (0.045 mol) of methyl chloroformate dissolved in 25 ml of chloroform is dropped to the above mixture at -21° C. during 10 minutes. After stirring for 5 minutes, 2.95 g (0.05 mol) of propylamine dissolved in 50 ml of chloroform are dropped to the above solution at a temperature between -21° C. and -19° C. during 45 minutes. The reaction mixture is stirred below -10° C. for 1 hour, then allowed to stand overnight under cooling by ice. For working up, the reaction mixture is washed 3 times with 70 ml of 5% sodium hydrogen carbonate solution each, then 3 times with 70 ml of water each. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated to give 7.8 g (70.7%) of the named compound as snow-white crystals after recrystallization from ethanol, m.p.: 138°-140° C.

reactant | 9-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.045 mol, 9.2 g | CC1=CC=CN2C1=NC=C(C2=O)C(=O)O | C10H8N2O3
reactant | triethylamine | 0.05 mol, 7.05 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.045 mol, 3.7 ml | ClC(=O)OC | C2H3ClO2
reactant | propylamine | 0.05 mol, 2.95 g | C(CC)N | C3H9N
solvent | chloroform | 280 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-propyl-9-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide | 7.8 g, 70.7% | C(CC)NC(=O)C1=CN=C2N(C1=O)C=CC=C2C | C13H15N3O2
